US06184225B2
Sodium (400 mg, 17 mmol) was added carefully to 2-methoxyethanol (10 ml) and the mixture heated at reflux for 30 minutes. 7-Fluoro-3,4-dihydroquinazolin-4-one (750 mg, 4.57 mmol) was added to the resulting solution and the mixture heated at reflux for 15 hours. The mixture was cooled and poured into water (250 ml). The mixture was acidified to pH4 with concentrated hydrochloric acid. The resulting solid product was collected by filtration, washed with water and then with ether, and dried under vacuum to give 7-(2-methoxyethoxy) 3,4-dihydroquinazolin-4-one (580 mg, 58%).

reactant | Sodium | 17 mmol, 400 mg | [Na] | Na
reactant | 2-methoxyethanol | 10 ml | COCCO | C3H8O2
reactant | 7-Fluoro-3,4-dihydroquinazolin-4-one | 4.57 mmol, 750 mg | FC1=CC=C2C(NC=NC2=C1)=O | C8H5FN2O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 250 ml | O | H2O
product | 7-(2-methoxyethoxy) 3,4-dihydroquinazolin-4-one | 580 mg, 58% | COCCOC1=CC=C2C(NC=NC2=C1)=O | C11H12N2O3
